US07855292B2
B. 4-Chloro-N-[2-(2,4-dichloro-phenyl)-propyl]-2-(2,6-difluoro-benzenesulfonylamino)-benzamide
The title compound was prepared from 2-(2,6-difluoro-benzenesulfonylamino)-4-chloro-benzoic acid and 2-(2,4-dichloro-phenyl)-propylamine hydrochloride (prepared as in EXAMPLE 5, substituting 2,4-dichlorophenyl-acetonitrile in Part A) as in Example 1, Part C. HPLC: RT=11.20 min. MS (ESI−): mass calcd. for C22H17Cl3F2N2O3S, 533.8; m/z found, 533 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.62 (s, 1H), 7.73 (d, J=1.9, 1H), 7.52-7.45 (m, 1H), 7.40 (d, J=1.8, 1H), 7.28-7.25 (m, 2H), 7.18 (d, J=8.5, 1H), 7.01-6.96 (m, 3H), 6.05 (br m, 1H), 3.76-3.70 (m, 1H), 3.68-3.57 (m, 1H), 3.57-3.49 (m, 1H), 1.32 (d, J=6.8, 3H).

reactant | 2-(2,6-difluoro-benzenesulfonylamino)-4-chloro-benzoic acid | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C(=O)O)C=CC(=C1)Cl | C13H8ClF2NO4S
reactant | 2-(2,4-dichloro-phenyl)-propylamine hydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C(CN)C
reactant | 2,4-dichlorophenyl-acetonitrile | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
product | 4-Chloro-N-[2-(2,4-dichloro-phenyl)-propyl]-2-(2,6-difluoro-benzenesulfonylamino)-benzamide | ClC1=CC(=C(C(=O)NCC(C)C2=C(C=C(C=C2)Cl)Cl)C=C1)NS(=O)(=O)C1=C(C=CC=C1F)F | C22H17Cl3F2N2O3S
